US07612055B2
e) (R)-6-tert-Butoxycarbonylamino-4-methyl-6-(5-oxo-tetrahydro-furan-2-yl)-hexanoic acid
A mixture of 2.09 g (6.67 mmol) [(R)-3-Methyl-6-oxo-1-(5-oxo-tetrahydro-furan-2-yl)-hexyl]-carbamic acid tert-butyl ester, 1.2 g (10 mol) NaH2PO4, 50 ml tBuOH and 10 ml water is subsequently treated with 20 ml of a 2M THF solution of 2-methyl-2-butene and 2.35 g (20.6 mmol) NaClO2 (technical, 80%). After stirring for 10 min the mixture is diluted with EtOAc and brine. The organic phase is dried with MgSO4, filtered and evaporated to yield the title compound as a resin which is used in the next step without purification.

reactant | [(R)-3-Methyl-6-oxo-1-(5-oxo-tetrahydro-furan-2-yl)-hexyl]-carbamic acid tert-butyl ester | 6.67 mmol, 2.09 g | C(C)(C)(C)OC(N[C@H](CC(CCC=O)C)C1OC(CC1)=O)=O | C16H27NO5
reactant | tBuOH | 50 ml | CC(C)(C)O | C4H10O
reactant | 2-methyl-2-butene | CC(C)=CC | C5H10
reactant | NaClO2 | 20.6 mmol, 2.35 g | [O-]Cl=O.[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | brine | [Cl-].[Na+].O
solvent | THF | 2M | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | (R)-6-tert-Butoxycarbonylamino-4-methyl-6-(5-oxo-tetrahydro-furan-2-yl)-hexanoic acid | C(C)(C)(C)OC(=O)NC(C[C@@H](CCC(=O)O)C)C1OC(CC1)=O | C16H27NO6
